US07202238B2
To a suspension of 3,5-bis(trifluoromethyl)phenyl-[(3R,7S,9aR)-7-hydroxy-3-(1H-indol-3-ylmethyl)-octahydropyrido[1,2-a]pyrazin-2-yl]-methanone (3.85 g) in acetonitrile was added carbon tetrabromide (11.6 g) and triphenylphosphine (9.18 g), the resulting mixture was stirred at room temperature overnight. The formed precipitate was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by flash-chromatography (SiO2, CH2Cl2/MeOH 98:2) to afford 3,5-bis(trifluoromethyl)phenyl-[(3R,9aR)-7-bromo-3-(1H-indol-3-ylmethyl)-octahydropyrido[1,2-a]pyrazin-2-yl]-methanone (3.5 g). MH+ 588, Rf 0.38 (CH2Cl2/MeOH 97:3) (intermediate 17).

reactant | 3,5-bis(trifluoromethyl)phenyl-[(3R,7S,9aR)-7-hydroxy-3-(1H-indol-3-ylmethyl)-octahydropyrido[1,2-a]pyrazin-2-yl]-methanone | 3.85 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@@H]2N(C[C@H]1CC1=CNC3=CC=CC=C13)C[C@H](CC2)O)(F)F | C26H25F6N3O2
reactant | carbon tetrabromide | 11.6 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 9.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
product | 3,5-bis(trifluoromethyl)phenyl-[(3R,9aR)-7-bromo-3-(1H-indol-3-ylmethyl)-octahydropyrido[1,2-a]pyrazin-2-yl]-methanone | 3.5 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@@H]2N(C[C@H]1CC1=CNC3=CC=CC=C13)CC(CC2)Br)(F)F | C26H24BrF6N3O
